US05153214
To a solution of methyl (S)-4-allyl-8-(benzyloxy)-octanoate (2.37 g, 7.8 mmol) in tetrahydrofuran (70 ml) and water (24 ml) is added a solution of 10 mg/ml of osmium tetroxide in toluene (9.4 ml, 0.37 mmol). Sodium periodate (3.57 g, 16.7 mmol) is added in small portions over a period of 0.5 hour. The mixture is allowed to stir for 1 hour and then poured on water and extracted with ether (3×30 ml). The combined organic extracts are dried, filtered and evaporated to give crude methyl (S)-8-(benzyloxy)-4-(formylmethyl)octanoate; IR (CH2Cl2): 2727, 1724, 1202, 1100 cm-1.

reactant | methyl (S)-4-allyl-8-(benzyloxy)-octanoate | 7.8 mmol, 2.37 g | C(C=C)[C@H](CCC(=O)OC)CCCCOCC1=CC=CC=C1 | C19H28O3
reactant | toluene | 0.37 mmol, 9.4 ml | C1(=CC=CC=C1)C | C7H8
reactant | Sodium periodate | 16.7 mmol, 3.57 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | 24 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | methyl (S)-8-(benzyloxy)-4-(formylmethyl)octanoate | C(C1=CC=CC=C1)OCCCC[C@@H](CCC(=O)OC)CC=O | C18H26O4
